Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Nausea and vomiting.
 
Major Surgical or Invasive Procedure:
___ tunneled HD catheter
Hemodialysis
 
History of Present Illness:
___ y.o. M with h/o HTN, CKD, and morbid obesity, presented to ED 
on ___ with nausea and vomiting x ___ weeks, after being found 
by PCP to have ___ 250.  Pt had not refilled BP meds.

ROS at the time notable for malaise but no CP, SOB, dizziness, 
headaches, visual changes, weakness or any other neurological 
deficits.
  
ED course:
# VS: T 99.3, HR 107, BP 246/154, RR 16, O2sat 100% RA.
# Meds/IVF: 2L NS, labetalol 20 mg IV x 3, labetalol 100 mg PO x 
3, 1" nitropaste x 3, acetaminophen 1 gram.
# Labs/studies:
--EKG: Sinus rhythem ___, LVH, nl axis, intervals, STE 1 mm V1-3 
likely early repolarization, TWI I, L, ?LAE.
--Cr ___P improved to 190/110 upon transfer to 
the floor, but patient reported a new frontal headache.  BP 
elevated despite nitro paste Q6H, labetalol 200mg TID, labetalol 
400mg PO x1, hydralazine 20mg IV x3, furosemide 80mg IV x1.

MICU course: Initial ROS positive for persistent headache; 
negative for nausea, vision changes, CP, SOB, abdominal pain or 
edema.  Pt received labetalol gtt and PO.  ___ tunneled 
catheter received, and pt started HD.
 
Past Medical History:
Hypertension  
CRI (baseline CR 5) c/b nephrotic range proteinuria
Anemia  
Hyperlipidemia 
 
Social History:
___
Family History:
Mother: HTN  
Father, died ___: Renal failure, expired on HD
 
Physical Exam:
Initial PE
===========
VS: T 97.9, BP 198/126, HR 84, RR 22, O2sat 100% RA, 341 lbs  
Gen: obese, lying in bed with eyes closed, cooperative, NAD  
Heent: OP clear, moist, anicteric, PERRL, EOMI, fundoscopic exam 
with venous pulsations  
Neck: supple, no LAD  
CV: nl S1 S2, rrr, II/VI SEM  
Lungs: CTAB  
Abd: obese, soft, NT  
Ext: no c/c/e  
Neuro: A&O x3, appropriate, CN II-XII intact to testing, 
sensations intact, full strength, gait not observed

Subsequent PE upon transfer out of MICU
========================================
VS: T afebrile, BP 194/92, HR 105, RR 18, O2sat 100 on RA
Gen: NAD  
Heent: NCAT, MMM, OP clear, PERRL, EOMI, neck supple, no LAD
CV: RRR, S1 S2, no m/r/g noted by this examiner
Chest: CTAB  
Abd: Soft, NT, ND, BS+, obese, no HSM
Ext: No c/c/e  
Neuro: A&Ox3, CN II-XII intact
 
Pertinent Results:
ADMISSION LABS:
===============
         9.1
 13.5 >------< 121
        26.2

MCV 82  Neuts 76  Lymphs 17  Monos 3.6  Eos 1.9  Basos 0.2

 139   104   90
-----|-----|------< 107
 3.6   17    17.6

Ca 8.5  Phos 5.4  Mg 1.8

ALT 17  AST 17  Alk Phos 96  Bili 0.4  Lipase 56
Serum Tox: negative

UA: large blood, negative nitrite, protein 500, negative 
leukocytes, RBC ___, WBC ___, Granular ___, Epi ___

Urine Cr 155
Urine Na 24
Urine osmolality 314

MICROBIOLOGY:
=============
___ 8:38 am URINE      Source: ___. 
URINE CULTURE (Final ___: 
      GRAM POSITIVE BACTERIA.    10,000-100,000 ORGANISMS/ML.. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 

STUDIES:
========
RENAL U.S.  ___ 
IMPRESSION: Limited study with inability to visualize either 
kidney. If necessary, noncontrast CT may be performed.

EKG ___
Sinus rhythm. Left ventricular hypertrophy with ST-T wave 
changes. 
The ST-T wave changes are more prominent in leads I and aVL as 
compared with prior tracing of ___ with the finding of 
biphasic T waves in 
leads I, aVL and V6. Followup and clinical correlation are 
suggested. 

CHEST (PORTABLE AP)  ___ 
FRONTAL CHEST RADIOGRAPH: The heart is top normal in size. The 
pulmonary vasculature is normal. The lungs are clear without 
focal consolidation, pneumothorax, or pleural effusion. The 
osseous structures are unremarkable.
IMPRESSION: No acute cardiopulmonary abnormality.
 
Brief Hospital Course:
___ y.o. M with HTN, CKD admitted with hypertensive emergency and 
acute on chronic renal failure. 

# Hypertension: SBP was in the 220s on admission. With patient's 
blood pressure not being well controlled on the floor, he was 
transferred to the MICU for better BP control with labetalol gtt 
and hydralazine IV prn. He was transferred back to the floor 
with SBP from 130s to 170s on labetalol 400 mg PO tid.  His 
labetalol was increased to 600 mg TID on the medicine floor, and 
his SBPs ranged from 130-150.  He was discharged with this 
increased dosage.
  
# Acute on chronic renal failure: Renal followed the patient 
while he was hospitalized.  Ultrafiltration was initiated in the 
MICU, and a tunnelled HD line was placed. Patient was still 
making urine. There was no hyperkalemia, encephalopathy, 
bleeding, or pericarditis.  He received hemodialysis 3 times a 
week while in the hospital.  Prior to discharge, he was set up 
with outpatient hemodialysis.  He was unable to get venous 
mapping prior to discharge, and he will need this as an 
outpatient.

# Anemia and thrombocytopenia: Hct was in the low ___ during the 
hospital stay. Hematology was consulted in the setting of 
concern for hemolysis with elevated LDH and decreased 
haptoglobin. No concern for TTP.  It was proposed that the 
anemia might be due to multiple factors including chronic kidney 
disease and possible hemolysis from shear force from malignant 
hypertension. His Hct remained stable during hospitalization.  
An ADAMST13 will need to be followed up as an outpatient.

# UTI: With ___ gram positive alpha hemolytic colonies on 
UCx.  Pt was started on ciprofloxacin to complete a 7 day course 
with instructions to hold ciprofloxacin on HD days until HD is 
completed.  
  
# Hyperlipidemia: Continued Statin.

# FEN: Cardiac diet. Repleted lytes prn.  

# PPx: heparin SC  
  
# Dispo: Home with outpatient hemodialysis. 
 
Medications on Admission:
Labetalol 200 mg TID (not taking for 1.5 months)  
PhosLo 1 tab PO TID with meals (mostly noncompliant)

 
Discharge Medications:
1. Calcium Acetate 667 mg Capsule Sig: Two (2) Capsule PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).
Disp:*180 Capsule(s)* Refills:*2*
2. Atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Ciprofloxacin 750 mg Tablet Sig: One (1) Tablet PO once a day 
for 6 days.
Disp:*6 Tablet(s)* Refills:*0*
4. Labetalol 300 mg Tablet Sig: Two (2) Tablet PO three times a 
day.
Disp:*180 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
1. Malignant Hypertension
2. End Stage Renal Disease
.
Secondary Diagnosis:
1. Anemia
2. Thrombocytopenia
3. Urinary tract infection
4. Hyperlipidemia

 
Discharge Condition:
Stable.  Better controlled blood pressures.  Afebrile.

 
Discharge Instructions:
You were admitted for very high blood pressures.  You were 
briefly in the MICU for IV blood pressure medications and then 
transferred to the medicine floor.  Your blood pressure was 
closely monitored, and your medications were changed for better 
control.  The kidney doctors saw ___, and you had hemodialysis 
while in the hospital. You will need hemodialysis 3 times a 
week.  This is being set up for you.  You were also seen by the 
Hematology doctors for your ___ (low blood counts) which was 
felt to be due to your chronic kidney disease.

Please take your medications as prescribed:
1. Please take atorvastatin 20 mg daily
2. Please take Calcium Acetate 1334 mg three times daily with 
meals
3. Please take Ciprofloxacin 750 mg daily for 6 more days (on 
your hemodialysis days, please take this medication after 
hemodialysis)
4. Please take labetalol 600 mg three times daily. This is a 
very important medication to help control your blood pressure.

Please keep all your follow up appointments.  Please make an 
appointment with ___, RN for possible fistula at ___.

Please follow up with your primary care physician, ___, on 
___ at 2:15 ___. Call ___ if you need to cancel.

You have an appointment with ___, MD ___ 
doctor) on ___ at 8 AM.  Please go to ___ ___ 
floor, Medical ___.  If you need to cancel/reschedule, 
please call ___.

If you have any of the following symptoms, please call your 
doctor or go to the nearest ER: fever>101, chest pain, worst 
headache in your life, sudden double vision or worsening of 
vision, constant nausea/vomiting, abdominal pain, or any other 
concerning symptoms.
 
Followup Instructions:
___